US06630593B1
Synthesis of 1-(4-bromobenzyl)-5-hydroxymethylimidazole
1-(4-Bromobenzyl)-2-mercapto-5-hydroxymethylimidazole(40 g, 0.134 mol) and vanadyl sulfate hydrate(21.9 mg, 0.1 mol %) were introduced into a mixed solution of 240 ml of ethanol and 240 ml of water. The mixture was warmed to 45° C. and stirred. After a short time, 30% hydrogen peroxide(51.6 g, 3.4 molar eq.) was slowly added dropwise thereto and the internal temperature was kept at about 50° C. When the initial white suspension turned to a pale yellow solution, the solution was further stirred for about 30 minutes to which was added 6 N sodium hydroxide solution to adjust pH of the solution to about 10. Then, ethanol was distilled under reduced pressure The precipitated crystal was filtered, washed with distilled water and dried to the constant weight to give 28.7 g(Yield 80.4%, HPLC=97%) of the title compound as a white powder.

reactant | 1-(4-Bromobenzyl)-2-mercapto-5-hydroxymethylimidazole | 0.134 mol, 40 g | BrC1=CC=C(CN2C(=NC=C2CO)S)C=C1 | C11H11BrN2OS
reactant | ethanol | 240 ml | C(C)O | C2H6O
reactant | hydrogen peroxide | 3.4 molar, 51.6 g | OO | H2O2
reactant | sodium hydroxide | 6 N | [OH-].[Na+]
catalyst | vanadyl sulfate hydrate | 21.9 mg | O.[O-]S(=O)(=O)[O-].O=[V+2]
solvent | water | 240 ml | O | H2O
product | 1-(4-bromobenzyl)-5-hydroxymethylimidazole | Yield 80.4% | BrC1=CC=C(CN2C=NC=C2CO)C=C1 | C11H11BrN2O
